US07199147B2
(c) Synthesis of 3-amino-N,N-dibenzylcyclohexane-carboxamide monohydrochloride
A 4N-hydrochloric acid/1,4-dioxane solution (4.5 ml) was added to a solution of tert-butyl 3-[(dibenzylamino)carbonyl]cyclohexanecarbamate (0.749 g, 1.773 mmol) in tetrahydrofuran (4.5 ml) and stirred overnight. The solvent was distilled off under reduced pressure, followed by replacement with toluene (twice), whereby 3-amino-N,N-dibenzylcyclohexanecarboxamide monohydrochloride (0.848 g, >99%) was obtained.

reactant | hydrochloric acid 1,4-dioxane | 4.5 ml | Cl.O1CCOCC1
reactant | tert-butyl 3-[(dibenzylamino)carbonyl]cyclohexanecarbamate | 1.773 mmol, 0.749 g | C(C1=CC=CC=C1)N(C(=O)C1CC(CCC1)NC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C26H34N2O3
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
product | 3-amino-N,N-dibenzylcyclohexane-carboxamide monohydrochloride | Cl.NC1CC(CCC1)C(=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C21H26N2O.ClH/c22-20-13-7-12-19(14-20)21(24)23(15-17-8-3-1-4-9-17)16-18-10-5-2-6-11-18;/h1-6,8-11,19-20H,7,12-16,22H2;1H
